US07153854B2
A solution of ethyl 4-(4-fluorophenyl)-7-formyl-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate (200 mg, 0.564 mmol), hydroxylamine hydrochloride (51.0 mg, 0.734 mmol), and sodium formate (69.1 mg, 1.02 mmol) in formic acid (2 mL) were refluxed for 2 h. The mixture was evaporated to give a green gum. The gum was partitioned between ethyl acetate (10 mL) and saturated sodium bicarbonate (5 mL). The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated to give a green gum. Flash silica gel column chromatography eluting with ethyl acetate-hexane=1-10 to 1-8 gave ethyl 7-cyano-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate as an yellow crystal (144 mg, 72.6%).

reactant | ethyl 4-(4-fluorophenyl)-7-formyl-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate | 0.564 mmol, 200 mg | FC1=CC=C(C=C1)C=1C=2N(N=C(C1C(=O)OCC)C(C)C)C(=CC2)C=O | C20H19FN2O3
reactant | hydroxylamine hydrochloride | 0.734 mmol, 51.0 mg | Cl.NO
reactant | sodium formate | 1.02 mmol, 69.1 mg | C(=O)[O-].[Na+]
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | ethyl 7-cyano-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate | 144 mg, 72.6% | C(#N)C1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)C(=O)OCC)C(C)C | C20H18FN3O2
